Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4],5.13738619293
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],0.064090210351
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.67355879797
[H:1][C:2]1[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-0.0148907318198
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][O:9],0.0763382874101999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:8]=[O:9],2.0702589736
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.26951644999
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][H:8],2.1525850839
[H:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.59460339792
[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.11899720563
[H:4].[O:1]=[C:2]([H:3])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.09145211841
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.93678242742
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],0.680853970247
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],3.61402467407
[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-8.273077418189999
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-1.13167356405
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13].[O:4][C:5]([H:6])([H:7])[O:8][H:9],0.7104365010089999
[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[C:2]#[C:3][C:4][O:5][H:6].[H:1],4.41042399504
[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.35062163863
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3],3.78501029697
[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.75458829407
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])[H:13],0.13841235769000002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],4.35484542293
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17],1.7375136291099995
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],0.247649021709
[C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16],-5.3796425920200015
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],-1.40936252
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-7.11908029146
